US04236004
8-Ethyl-7,8-dihydro-5-hydroxy-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To 9.2 g. (0.034 mole) of 4-ethylamino-2-phenyl-5-pyrimidine-carboxylic acid ethyl ester in diethyl ether was added to 2.6 g. (0.017 mole) of ethyl malonyl chloride and then stirred 3 hours at room temperature. The reaction was then filtered and the filtrate stripped to dryness. This residue was dissolved in ethanol and added to a solution of 0.78 g. of sodium (0.034 mole) in ethanol and stirred at room temperature for 10 minutes. Acidification with acetic acid followed by the slow addition of water resulted in the formation of a precipitate. The crude product was removed by filtration and recrystallized from hexane m. p. 175°-177° C.--to give 1.0 g. of the title product.

reactant | 4-ethylamino-2-phenyl-5-pyrimidine-carboxylic acid ethyl ester | 0.034 mole | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)NCC | C15H17N3O2
reactant | ethyl malonyl chloride | 0.017 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | sodium | 0.034 mole | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 8-Ethyl-7,8-dihydro-5-hydroxy-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)O | C18H17N3O4
